US08008298B2
A mixture of 1-(5-chloro-2-methylsulfanyl-phenyl)-pyrrolidine (192 mg, 0.84 mmol), Pd2(dba)3 (17 mg, 0.02 mmol), bis(pinacolato)diboron (208 mg, 0.82 mmol), KOAc (166 mg, 1.7 mmol), and dicyclohexyl-(2′,6′-dimethoxy-biphenyl-2-yl)-phosphane (33 mg, 0.08 mmol) in dioxane (3.3 mL) was stirred at 150° C. in a microwave for 2 h. The resulting mixture was partitioned between ethyl acetate and water. The combined organic layers were dried over Na2SO4 and concentrated to give a brown oil. The crude product was purified by flash chromatography using 12 g of silica gel and 0-40% EtOAc in hexanes as eluant to afford 0.14 g (50%) of 1-[2-methylsulfanyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-pyrrolidine as a tan oil. M+H 320.

reactant | 1-(5-chloro-2-methylsulfanyl-phenyl)-pyrrolidine | 0.84 mmol, 192 mg | ClC=1C=CC(=C(C1)N1CCCC1)SC | C11H14ClNS
reactant | bis(pinacolato)diboron | 0.82 mmol, 208 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 1.7 mmol, 166 mg | CC(=O)[O-].[K+]
reactant | dicyclohexyl-(2′,6′-dimethoxy-biphenyl-2-yl)-phosphane | 0.08 mmol, 33 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | dioxane | 3.3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.02 mmol, 17 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[2-methylsulfanyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-pyrrolidine | 0.14 g, 50% | CSC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)N1CCCC1 | C17H26BNO2S
